US04315928
A mixture of 3.3 g powdered potassium hydroxide, 0.1 g dicyclohexyl-18-crown-6, and 6.7 g (0.05 mole) of 2-methyl-2-(methylthio)propionaldehyde oxime in 200 ml of benzene was stirred 1 hr. at room temperature. N-methyl-N-(dimethylaminosulfenyl)carbamoyl fluoride (8.0 g, 0.05 mole) was then added, and the mixture was stirred overnight at room temperature. The solution was extracted three times with water, dried (MgSO4), and concentrated in vacuo. The oily residue was recrystallized from n-hexane to give 10 g (75.5 percent yield) of 2-methyl-2-(methylthio)propionaldehyde O-[N-methyl-N-(dimethylaminosulfenyl)carbamoyl]oxime, m.p. 48°-50° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-methyl-2-(methylthio)propionaldehyde oxime | 0.05 mole, 6.7 g | CC(C=NO)(C)SC | C5H11NOS
reactant | N-methyl-N-(dimethylaminosulfenyl)carbamoyl fluoride | 0.05 mole, 8.0 g | CN(C(=O)F)SN(C)C | C4H9FN2OS
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | dicyclohexyl-18-crown-6 | 0.1 g | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
product | 2-methyl-2-(methylthio)propionaldehyde O-[N-methyl-N-(dimethylaminosulfenyl)carbamoyl]oxime | 10 g, 75.5 percent yield | CN(C(=O)ON=CC(C)(SC)C)SN(C)C | C9H19N3O2S2
